US07125901B2
N-{5-[2-(4-Aminophenyl)ethyl]-1,3-thiazol-2-yl}acetamide (100 mg), N,N′-bis(tert-butoxycarbonyl)-1H-pyrazole-1-carboxamidine (119 mg), N,N-dimethylformamide (1 ml) and tetrahydrofuran (2 ml) were combined under nitrogen atmosphere. The reaction mixture was stirred at 50° C. for 5.5 hours. After cooled to room temperature, the reaction mixture was concentrated in vacuo. The residue was purified by preparative silica gel column chromatography with n-hexane/ethyl acetate (1:2) as an eluent to give di-tert-butyl {[(4-{2-[2-(acetylamino)-1,3-thiazol-5-yl]ethyl}phenyl)amino]methylidene}biscarbamate (93.9 mg) as a colorless solid.

reactant | N-{5-[2-(4-Aminophenyl)ethyl]-1,3-thiazol-2-yl}acetamide | 100 mg | NC1=CC=C(C=C1)CCC1=CN=C(S1)NC(C)=O | C13H15N3OS
reactant | N,N′-bis(tert-butoxycarbonyl)-1H-pyrazole-1-carboxamidine | 119 mg | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N1N=CC=C1 | C14H22N4O4
reactant | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | di-tert-butyl {[(4-{2-[2-(acetylamino)-1,3-thiazol-5-yl]ethyl}phenyl)amino]methylidene}biscarbamate | 93.9 mg | C(C)(=O)NC=1SC(=CN1)CCC1=CC=C(C=C1)NC(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C24H35N5O5S
